US07776875B2
Preparation of Intermediate E/Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
At room temperature, to a solution of E/Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one (2.3 g) in DCM (30 mL) was added Di-tert-butyl-dicarbonate (1.5 g), followed by the addition of 4-dimethylaminopyridine (0.072 g). After stirring for 0.5 h at room temperature, the solution was washed with 0.5N HCl aqueous solution twice, dried over anhydrous Na2SO4 and concentrated to give title compound as a yellow oil (2.5 g).

reactant | Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one | 2.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCC1(COC1)C | C20H17Cl2NO3
reactant | Di-tert-butyl-dicarbonate | 1.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.072 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC1(COC1)C)=O | C25H25Cl2NO5
